US04235930
(5Z,13E)-(11R,15R)-16,16-Dimethyl-11,15-dihydroxy-9-oxo-5,13-prostadien-18-ynoic Acid Acetylamide
400 mg. of (5Z,13E)-(11R,15R)-16,16-dimethyl-9-oxo-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid acetylamide is agitated for 16 hours at 25° with 12 ml. of a mixture of glacial acetic acid/water/THF (65/35/10), evaporated under vacuum, and the residue purified by column chromatography on silica gel. With methylene chloride/2-5% methanol, 190 mg. of the title compound is obtained as an oil.

reactant | (5Z,13E)-(11R,15R)-16,16-dimethyl-9-oxo-11,15-bis(tetrahydropyran-2-yloxy)-5,13-prostadien-18-ynoic acid acetylamide | C(C)(=O)NC(CCC\C=C/C[C@H]1C(C[C@H]([C@@H]1\C=C\[C@H](C(CC#CC)(C)C)OC1OCCCC1)OC1OCCCC1)=O)=O | C34H51NO7
solvent | acetic acid water THF | C(C)(=O)O.O.C1CCOC1
product | (5Z,13E)-(11R,15R)-16,16-Dimethyl-11,15-dihydroxy-9-oxo-5,13-prostadien-18-ynoic Acid Acetylamide | C(C)(=O)NC(CCC\C=C/C[C@H]1C(C[C@H]([C@@H]1\C=C\[C@H](C(CC#CC)(C)C)O)O)=O)=O | C24H35NO5
